US06060488
6-Methoxy-2-(4-Methoxyphenyl)-3-(4-[1-Benzylpyrrolidin-3-oxy]benzoyl)benzo[b]thiophene
6-Methoxy-2-(4-methoxyphenyl)-3-(4-hydroxybenzoyl)benzo[b]thiophene (1.17 g, 3.00 mmol), 1-benzyl-3-hydroxypyrrolidine (1.06 g, 6.00 mmol), triphenyiphosphine (1.57 g, 6.00 mmol), and DEAD (6.0 mmol) were converted to product by the procedure of Example 1 to g ive 1.57 g of the title compound. Yield: 95.3%. MS(FD) 549(M+). IR (CHCl3) ν max 3033, 3010, 2971, 2842, 1646, 1599, 1476, 1254, 1167.

reactant | 6-Methoxy-2-(4-methoxyphenyl)-3-(4-hydroxybenzoyl)benzo[b]thiophene | 3.00 mmol, 1.17 g | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)O)=O)C2=CC=C(C=C2)OC)C1 | C23H18O4S
reactant | 1-benzyl-3-hydroxypyrrolidine | 6.00 mmol, 1.06 g | C(C1=CC=CC=C1)N1CC(CC1)O | C11H15NO
reactant | triphenyiphosphine | 6.00 mmol, 1.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 6.0 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 6-Methoxy-2-(4-Methoxyphenyl)-3-(4-[1-Benzylpyrrolidin-3-oxy]benzoyl)benzo[b]thiophene | 1.57 g, Yield: 95.3% | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OC2CN(CC2)CC2=CC=CC=C2)=O)C2=CC=C(C=C2)OC)C1 | C34H31NO4S
